US07129238B2
(RS)-Methoxy-(6-methoxy-naphthalen-2-yl)-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(6-methoxy-naphthalen-2-yl)-acetamide. Off-white foam. MS 361.2 ([M+H]+)

reactant | (RS)-Methoxy-(6-methoxy-naphthalen-2-yl)-acetic acid | COC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C14H14O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(6-methoxy-naphthalen-2-yl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=CC3=CC=C(C=C3C=C2)OC)OC)=O)C=C1 | C22H20N2O3
